US04886545
Sodium hydride [5.14 g (50% oil dispersion); 0.107 mol] in 100 ml of dry toluene was added to a 500 ml, 3-necked flask fitted with a mechanical stirrer. Azacycloheptan-2-one (10.07 g; 0.089 mol) was dissolved in 50 ml of dry toluene with slight warming and added to the sodium hydride suspension dropwise at room temperature. The suspension was stirred at room temperature for 1 hour. n-Dodecanoyl chloride (19.39 g; 0.089 mol) in 10 ml of dry toluene was added dropwise to the mixture and after the addition was complete, the mixture was stirred overnight at room temperature. The mixture was then washed with water, and the organic layer separated, dried with MgSO4, and concentrated. The resulting yellow oil was distilled 160° C./0.35 mm to yield 1-n-dodecanoylazacycloheptan-2-one as clear oil.

reactant | Sodium hydride | 0.107 mol, 5.14 g | [H-].[Na+]
reactant | Azacycloheptan-2-one | 0.089 mol, 10.07 g | N1C(CCCCC1)=O | C6H11NO
reactant | n-Dodecanoyl chloride | 0.089 mol, 19.39 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-n-dodecanoylazacycloheptan-2-one | C(CCCCCCCCCCC)(=O)N1C(CCCCC1)=O | C18H33NO2
